US04134898
0.9 G. of 4-hydroxy-3-methoxycarbonyl-2-methyl-2H-thieno[3,4-e]-1,2-thiazine 1,1-dioxide are suspended together with 0.4 g. of 2-aminothiazole in 100 ml. of absolute xylene and heated to reflux for 4 hours, 70 ml. of xylene being slowly distilled off. A crystalline precipitate separates from the cooled solution and is filtered off under suction. There is obtained 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-thieno[3,4-e]-1,2-thiazine-3-carboxamide 1,1-dioxide of melting point 243°-245° C. (decomposition).

reactant | 4-hydroxy-3-methoxycarbonyl-2-methyl-2H-thieno[3,4-e]-1,2-thiazine 1,1-dioxide | OC1=C(N(S(C=2C1=CSC2)(=O)=O)C)C(=O)OC | C9H9NO5S2
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(2-thiazolyl)-2H-thieno[3,4-e]-1,2-thiazine-3-carboxamide 1,1-dioxide | OC1=C(N(S(C=2C1=CSC2)(=O)=O)C)C(=O)NC=2SC=CN2 | C11H9N3O4S3
